data/oMe_Silver.jsonl
{"reaction_id": "NR-305_1-c2ccc(OC)cc2_2-c2ccc(N(C)C)cc2","level": "easy","name": "Tebbe-Petasis Olefination","reactants_smiles": ["O=C(c2ccc(OC)cc2)(c2ccc(N(C)C)cc2)","C[Ti](C)(C1C=CC=C1)(C1C=CC=C1)"],"products_smiles": ["C=C(c2ccc(OC)cc2)(c2ccc(N(C)C)cc2)","C","O=[Ti](C1C=CC=C1)(C1C=CC=C1)"],"conditions": "In situ generation of Tebbe/Petasis reagent","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C=[Ti](C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "Thermal conditions promote elimination of a methyl group from titanium, forming a reactive Ti–carbene stabilized by π-donating cyclopentadienyl ligands."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(c2ccc(OC)cc2)(c2ccc(N(C)C)cc2)O[Ti]([CH2]1)(C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "The electrophilic Ti–carbene reacts with the nucleophilic carbonyl oxygen in a [2+2] cycloaddition, favored by orbital symmetry and the strong Ti–O bond formation."},{"step": 3,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C=C(c2ccc(OC)cc2)(c2ccc(N(C)C)cc2)","step_weight": 0,"rationale": "Cycloreversion occurs to relieve ring strain, driven by formation of a stable Ti=O bond and the thermodynamically favored alkene product."}],"description": "The Tebbe-Petasis olefination converts a carbonyl group into an alkene via a titanium–carbene complex. The reagent is generated in situ, undergoes [2+2] cycloaddition with the carbonyl, and then eliminates to yield the alkene and a titanium oxo species."}
{"reaction_id": "NR-112_1-OC_2-CCC_3-C(C)(C)C_4-C(F)(F)F_5-C(C)C","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(OC)c(CCC)c(C(C)(C)C)c1C(F)(F)F","C(C(C)C)#N"],"products_smiles": ["c1(C(=O)C(C)C)c(O)c(OC)c(CCC)c(C(C)(C)C)c1C(F)(F)F"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])C(C)C)C(=[OH+])c(OC)c(CCC)c(C(C)(C)C)c1C(F)(F)F","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])C(C)C)c(O)c(OC)c(CCC)c(C(C)(C)C)c1C(F)(F)F","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])C(C)C)c(O)c(OC)c(CCC)c(C(C)(C)C)c1C(F)(F)F","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)C(C)C)c(O)c(OC)c(CCC)c(C(C)(C)C)c1C(F)(F)F","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
